US05998433
c) Synthesis of N,N-dimethyl-[6-[4-(2-methylbenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(2-methylbenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.192 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(2-methylbenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.192 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=C(C=CC=C2)C)=O)=O)O1 | C25H26N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(2-methylbenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=C(C=CC=C2)C)=O)=O)O1 | InChI=1S/C25H26N2O3.ClH/c1-17-6-4-5-7-22(17)24(28)18-8-10-19(11-9-18)25(29)27-13-12-20-14-21(15-26(2)3)30-23(20)16-27;/h4-11,14H,12-13,15-16H2,1-3H3;1H
